US07160915B2
A solution of 6-(4-Ethyl-2-fluoro-phenylamino)-5-fluoro-3-methyl-3H-benzoimidazole-5-carboxylic acid methyl ester (0.309 g) in ammonia-saturated isopropanol (10 mL) was heated in a sealed pressure tube at 80° C. for 80 h. The resultant reaction mixture was concentrated to dryness and recrystallized from ethanol to afford pure 6-(4-ethyl-2-fluoro-phenylamino)-5-fluoro-3-methyl-3H-benzoimidazole-5-carboxylic acid amide (0.199 g, 65% yield): m.p. 249–251° C.; 1H NMR (400 MHz, acetone-d6) δ 8.45 (brs, 1 H), 8.18 (s, 1 H), 5.94 (s, 1 H), 5.59 (br s, 1 H), 6.95 (dd, J=12.5, 2.0 Hz, 1 H), 6.89 (br s, 1 H), 6.81 (br d, 1 H), 6.56 (td, J=8.6, 4.9 Hz, 1 H), 3.95 (s, 3 H), 2.54 (q, J=5.6 Hz, 2 H), 1.16 (t, J=5.6 Hz, 3 H). Anal. Calcd/Found for C15H16F2N4O: C, 61.64/61.26; H, 4.88/4.84; N, 16.96, 16.68; F, 11.50/11.85.

reactant | 6-(4-Ethyl-2-fluoro-phenylamino)-5-fluoro-3-methyl-3H-benzoimidazole-5-carboxylic acid methyl ester | 0.309 g | COC(=O)C1(C=C2C(=NCN2C)C=C1NC1=C(C=C(C=C1)CC)F)F | C18H19F2N3O2
reactant | ammonia | 10 mL | N | H3N
product | 6-(4-ethyl-2-fluoro-phenylamino)-5-fluoro-3-methyl-3H-benzoimidazole-5-carboxylic acid amide | 0.199 g, 65% yield | C(C)C1=CC(=C(C=C1)NC=1C(C=C2C(=NCN2C)C1)(C(=O)N)F)F | C17H18F2N4O
